US07557123B2
Thiophenol (1.90 ml) was dissolved in N,N-dimethylformamide (10 ml) Sodium hydride (60% oil suspension, 740 mg) was added by portions under ice-cooling, and the mixture was stirred at room temperature for 15 min. Thereafter, a solution of ethyl 2-chloro-4-methylthiazole-5-carboxylate (3.05 g) in N,N-dimethylformamide (10 ml) was added dropwise, and the mixture was stirred at the same temperature for 20 min. Water (50 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (50 ml). The ethyl acetate layer was washed twice with water (50 ml) and then with saturated brine (30 ml), and dried (Na2SO4). Ethyl acetate was evaporated under reduced pressure and the obtained residue was purified by column chromatography to give ethyl 4-methyl-2-phenylsulfanylthiazole-5-carboxylate (3.85 g).

reactant | Thiophenol | 1.90 ml | C1(=CC=CC=C1)S | C6H6S
reactant | ethyl 2-chloro-4-methylthiazole-5-carboxylate | 3.05 g | ClC=1SC(=C(N1)C)C(=O)OCC | C7H8ClNO2S
reactant | Water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml, 740 mg | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 4-methyl-2-phenylsulfanylthiazole-5-carboxylate | 3.85 g | CC=1N=C(SC1C(=O)OCC)SC1=CC=CC=C1 | C13H13NO2S2
